US04515788
To a solution of 2-t-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (65.9 g) in ethyl acetate (300 ml) and tetrahydrofuran (200 ml) was dropwise added a solution of diphenyldiazomethane in ethyl acetate (1 m mol/ml, 200 ml) at ambient temperature and the mixture was stirred for an hour. The resultant mixture was washed with saturated aqueous solution of sodium bicarbonate and brine, and dried over magnesium sulfate. The solution was evaporated to give benzhydryl 2-t-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetate (syn isomer) (99.3 g). To the solution of benzhydryl 2-t-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetate (syn isomer) (99.0 g) in methanol (500 ml) was added conc. hydrochloric acid (41.6 g) at ambient temperature and the mixture was stirred at the same temperature for 1.5 hours. The reaction mixture was poured into a solution of sodium bicarbonate (33.6 g) in water (2.5 l) and extracted with ethyl acetate. The extracts were washed with brine and dried over magnesium sulfate. The solution was evaporated and the residue was pulverized with ether to give benzhydryl 2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetate (syn isomer) (72.3 g).

reactant | benzhydryl 2-t-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetate | 99.0 g | C(C)(C)(C)OC(=O)CON=C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=1N=C(SC1)NC=O | C25H25N3O6S
reactant | hydrochloric acid | 41.6 g | Cl | ClH
reactant | sodium bicarbonate | 33.6 g | C([O-])(O)=O.[Na+]
solvent | methanol | 500 ml | CO | CH4O
solvent | water | 2.5 l | O | H2O
product | benzhydryl 2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetate | 72.3 g | C(C)(C)(C)OC(=O)CON=C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=1N=C(SC1)N | C24H25N3O5S
